US07576099B2
(7-nitro-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazin-3-yl)methanol
Into a 75 mL sealed tube were combined 2-amino-3-hydroxy-5-nitropyridine (0.138 g, 0.000890 mol), N,N-dimethylfonnamide (4.1 mL) and potassium carbonate (0.39 g, 0.0028 mol). The mixture was allowed to stir at room temperature for 10 minutes then 1-bromo-2,3-epoxypropane (0.12 g, 0.00089 mol) was added in one portion. The flask was sealed, then heated to 110° C. and stirred overnight. After allowing to cool, the mixture was concentrated under vacuum to give a crude solid which was dissolved in EtOAc (75 mL), washed with water and brine, then dried (Na2SO4), filtered and concentrated under vacuum to leave a crude residue. The residue was purified by column chromatography on silica gel using MeOH/CH2Cl2 (0-10% gradient) as eluent to give a solid (0.092 g, 46%). LC-MS 1.92 min. M/Z=212.0 (M+1). 1H NMR (d6-DMSO) δ 8.8 (d, 1 H), 7.8 (d, 1 H), 5.1 (t, 1H),4.2 (m, 1 H), 4.0 (m, 1H), 3.62 (m, 1H), 3.45 (m, 1H), 3.21 (m, 1H).

reactant | 2-amino-3-hydroxy-5-nitropyridine | 0.000890 mol, 0.138 g | NC1=NC=C(C=C1O)[N+](=O)[O-] | C5H5N3O3
reactant | potassium carbonate | 0.0028 mol, 0.39 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2,3-epoxypropane | 0.00089 mol, 0.12 g | BrCC1CO1 | C3H5BrO
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
product | (7-nitro-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazin-3-yl)methanol | 0.092 g, 46% | [N+](=O)([O-])C1=CC=2OCC(NC2N=C1)CO | C8H9N3O4
